### ISSUE TITLE
Proof obligation for `concretePower2RoundLaws` in `LatticeCrypto/MLDSA/Concrete/Rounding.lean`

### ISSUE THREAD

**Issue by quangvdao** [dtumad/VCV-io#217]
A proof in `LatticeCrypto/MLDSA/Concrete/Rounding.lean` contains a `sorry`.

**Goal:** Replace the `sorry` with a complete proof.

[Link to the sorry on GitHub](https://github.com/Verified-zkEVM/VCV-io/blob/master/LatticeCrypto/MLDSA/Concrete/Rounding.lean#L1927)

**Code Snippet:**
```lean
  have hhalf : (2 * p.gamma2) / 2 = p.gamma2 := by
    omega
  change highBits p (r + s) = highBits p r
  exact concreteRounding_hide_low_of_isApproved p hp r s b hs (by simpa [hhalf] using hlow)

theorem concretePower2RoundLaws :
```
